US07692005B2
Thiophene-2-carboxylic acid (4-{3-[(4-morpholin-4-yl-phenylamino)-methylene]-2-oxo-2,3-dihydro-1H-indole-6-carbonyl}-phenyl)-amide
A small screw cap test tube was charged with Thiophene-2-carboxylic acid [4-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide (100 mg, 0.257 mmol) and THF (2 mL). To the resulting solution was added N-(4-aminophenyl)morpholine (50.2 mg, 0.282 mmol), and the mixture was stirred for 24 h at 65° C. Subsequently, the reaction mixture was cooled to room temperature. EtOAc and Hexanes were added to the reaction mixture. The solid precipitate that formed was washed with ˜1 mL of i-prOH yielding 71% (100 mg, 0.181 mmol) of the title compound.

reactant | Thiophene-2-carboxylic acid [4-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide | 0.257 mmol, 100 mg | OC=C1C(NC2=CC(=CC=C12)C(=O)C1=CC=C(C=C1)NC(=O)C=1SC=CC1)=O | C21H14N2O4S
reactant | THF | 2 mL | C1CCOC1 | C4H8O
reactant | N-(4-aminophenyl)morpholine | 0.282 mmol, 50.2 mg | NC1=CC=C(C=C1)N1CCOCC1 | C10H14N2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Thiophene-2-carboxylic acid (4-{3-[(4-morpholin-4-yl-phenylamino)-methylene]-2-oxo-2,3-dihydro-1H-indole-6-carbonyl}-phenyl)-amide | 0.181 mmol, 100 mg, 71% | N1(CCOCC1)C1=CC=C(C=C1)NC=C1C(NC2=CC(=CC=C12)C(=O)C1=CC=C(C=C1)NC(=O)C=1SC=CC1)=O | C31H26N4O4S
